US09260375B2
To a solution of diisopropylamine (122 mg, 1.21 mmol) in anhydrous tetrahydrofuran (2 mL) under the atmosphere of argon was added a 1.58 M n-butyl lithium-hexane solution (703 μL, 1.11 mmol) with stirring under ice cooling, and the mixture was stirred at 0° C. for 10 min and then at −78° C. for 5 min. A solution of benzyl 2-(tetrahydropyran-4-yl)acetate (250 mg, 1.07 mmol) in anhydrous tetrahydrofuran (1 mL) was added dropwise over 6 min at the same temperature, and the reaction mixture was further stirred for 15 min. The cold enolate solution thus prepared was added dropwise via a cannula to a solution of benzyl a solution of benzyl 3-methyl-2-ketobutyrate (191 mg, 0.928 mmol) in anhydrous tetrahydrofuran (1 mL) solution having been cooled to −78° C. After stirring at −78° C. for 1 h, the reaction mixture was adjusted to pH 4 with acetic acid and raised to room temperature. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and water to separate the phases for extraction. The aqueous layer was extracted again with ethyl acetate, and the combined organic layer was concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 7:1) to give dibenzyl 2-hydroxy-2-isopropyl-3-(tetrahydro-2H-pyran-4-yl)succinate as oil in amounts of 115 mg (low polar diastereomer, yield: 29%) and 158 mg (high polar diastereomer, yield: 39%), respectively.

reactant | diisopropylamine | 1.21 mmol, 122 mg | C(C)(C)NC(C)C | C6H15N
reactant | benzyl 2-(tetrahydropyran-4-yl)acetate | 1.07 mmol, 250 mg | O1CCC(CC1)CC(=O)OCC1=CC=CC=C1 | C14H18O3
reactant | benzyl 3-methyl-2-ketobutyrate | 0.928 mmol, 191 mg | CC(C(C(=O)OCC1=CC=CC=C1)=O)C | C12H14O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | dibenzyl 2-hydroxy-2-isopropyl-3-(tetrahydro-2H-pyran-4-yl)succinate | yield: 29% | OC(C(=O)OCC1=CC=CC=C1)(C(C(=O)OCC1=CC=CC=C1)C1CCOCC1)C(C)C | C26H32O6
